US07501411B2
Step 4: 2-Methoxy-N-(6-methylpyridin-3-yl)methyl-4-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-benzamide
Pyrazole-4-boronic acid (19 mg, 0.17 mmol), 4-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-2-hydroxy-N-[(6-methyl-pyridin-3-yl)methyl]benzamide (40 mg, 0.085 mmol), K2CO3 (24 mg, 0.17 mmol) and Pd(dppf)Cl2CH2Cl2 (4 mg, 0.005 mmol) are weighed into a sealable tube. The tube is flushed with nitrogen and dioxane-water (4:1, 4 mL) is added. The tube is sealed, placed in an ultrasonic bath under a flow of nitrogen gas for 30 seconds and then placed into an oil bath at 85° C. The reaction is stirred for 28 hours, adding additional portions of boronic acid (10 mg) and catalyst (2 mg) after 2 h and 18 h. The crude mixture is absorbed onto SiO2 and purified by column chromatography, eluting with 1%-10% MeOH/DCM. The product obtained is redissolved in MeOH/DCM (4:1, 10 mL) and 0.1 M MsOH/MeOH (2 eq) is added, the solvents evaporated and the residue taken up in water and lyophillised to afford the title compound as its bis-mesylate salt (38 mg). LCMS: Rt 0.92 min (93.9%) m/z (ESI) 455 (M+H)+.

reactant | Pyrazole-4-boronic acid | 0.17 mmol, 19 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | 4-(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino)-2-hydroxy-N-[(6-methyl-pyridin-3-yl)methyl]benzamide | 0.085 mmol, 40 mg | BrC1=CN=C(C=2N1N=CN2)NC2=CC(=C(C(=O)NCC=1C=NC(=CC1)C)C=C2)O | C19H16BrN7O2
reactant | K2CO3 | 0.17 mmol, 24 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MsOH MeOH | 0.1 M, 2 eq | S(=O)(=O)(C)O.CO
solvent | MeOH DCM | 10 mL | CO.C(Cl)Cl
product | 2-Methoxy-N-(6-methylpyridin-3-yl)methyl-4-[5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamino]-benzamide | COC1=C(C(=O)NCC=2C=NC(=CC2)C)C=CC(=C1)NC=1C=2N(C(=CN1)C=1C=NNC1)N=CN2 | C23H21N9O2
